US04547514
3-(2,3-Dichlorophenoxy)-1-pyrrolidinecarbonyl Chloride
To a solution of 200 ml of 2M phosgene in benzene, stirred under nitrogen gas, was added 96 g (0.3 mole) of 1-benzyl-3-(2,3-dichlorophenoxy)pyrrolidine in 300 ml of benzene. The reaction mixture was allowed to stir overnight and then concentrated to an oil. The oil was triturated with 30/60 petroleum ether to give an oil. Solid product, 89 g, was obtained containing a trace of benzyl chloride. The yield was nearly quantitative.

reactant | phosgene | 2M, 200 ml | C(=O)(Cl)Cl | CCl2O
reactant | 1-benzyl-3-(2,3-dichlorophenoxy)pyrrolidine | 0.3 mole, 96 g | C(C1=CC=CC=C1)N1CC(CC1)OC1=C(C(=CC=C1)Cl)Cl | C17H17Cl2NO
reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | 3-(2,3-Dichlorophenoxy)-1-pyrrolidinecarbonyl Chloride | ClC1=C(OC2CN(CC2)C(=O)Cl)C=CC=C1Cl | C11H10Cl3NO2
